US04752326
Preparation of 1-(2-fluoro-4-chloro-5-ethoxycarbonylmethyloxyphenyl)-3,5-dimethyl-4-chloropyrazole (Compound No. 187) (Process C)
1-(2-fluoro-4-chloro-5-hydroxyphenyl)-3,5-dimethyl-4-chloropyrazole (27.5 g) was dissolved in tetrahydrofuran (200 ml), and to the resultant solution was added sodium amide (4.0 g). When the evolution of ammonia gas from the reaction mixture ceased, ethyl monochloroacetate (12.3 g) was added dropwise to the reaction mixture. After the completion of addition, the reaction mixture was heated under reflux, with stirring for further 3 hours. To the reaction mixture, after cooling, were added toluene and water to form two layers. The organic layer as separated was washed with water and dried over anhydrous sodium sulfate. Removal of the solvent by distillation in vacuo gave the titled compound (33.9 g) as a pale brown crystalline solid. Recrystallization of this solid from cyclohexane afforded a white crystalline solid. m.p. 101°-104° C.

reactant | 1-(2-fluoro-4-chloro-5-hydroxyphenyl)-3,5-dimethyl-4-chloropyrazole | 27.5 g | FC1=C(C=C(C(=C1)Cl)O)N1N=C(C(=C1C)Cl)C | C11H9Cl2FN2O
reactant | sodium amide | 4.0 g | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | ethyl monochloroacetate | 12.3 g | ClCC(=O)OCC | C4H7ClO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2-fluoro-4-chloro-5-ethoxycarbonylmethyloxyphenyl)-3,5-dimethyl-4-chloropyrazole | 33.9 g | FC1=C(C=C(C(=C1)Cl)OCC(=O)OCC)N1N=C(C(=C1C)Cl)C | C15H15Cl2FN2O3
